Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
The pt is a ___ who presents with one week of waxing/wanning
right sided headache and found to have right-sided transverse
sinus thrombosis on MRV.

She was in her usual state until roughly one week prior when she
noted the onset of a persistent headache. She does not have a
history of migraine and cannot pinpoint the exact time when the
headache started but believes it was a gradual onset. At times
the headache was particularly pronounced in intensity such as
when she would cough or sneeze and especially when she would 
bend
over. The pain was describes as constant but at times throbbing,
varied in intensity between ___. The pain was focused in the
right posterior auricular / right occiput but at times would be
distributed over the entire right head into her right orbit,
nasal cavity and neck. She denies vertigo, vision changes,
nausea, phono/photophobia. She denies trauma to head/neck. 

The pain would intermittently improve with the use of OTC pain
relievers. However, earlier this morning at roughly 2am she woke
up with tremendous pain and felt that she needed to go to
hospital. She presented to ___ and underwent CT which was
initially read as normal. She was given toradol/benedryl and
phenergen which led to a substantial improvement in the symptoms
of pain. She returned home but was called because of a final 
read
of the CT which showed possible venous sinus clot. She returned
for an MRV which showed a right transverse sinus thrombus and 
was
then transfered to ___.  

of note, she experienced a flu-like episode with fever/chills
perhaps 1 month ago but felt that she had fully recovered and 
she
currently denies recent fevers/chills. 

Also of note, 4 months prior she restarted estradiol FEmring
(vaginal insert) for menopausal symptoms. She also continues to
smoke perhaps 1 pk/day. 
 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Insomnia
Anxiety
Depression
COPD

 
Social History:
___
Family History:
No known neurological disease or clotting disorders, Father died
of mesothelioma, Mother was healthy 

 
Physical Exam:
Vitals: 99.4 73 130/70 16 96% RA  
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.

 

Neurologic: 

-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect.

  

-Cranial Nerves: 

I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 

No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 

L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5

 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

 

-DTRs: 

  Bi Tri ___ Pat Ach 

L  2  2    2    2   1 
R  2  2    2    2   1

Plantar response was flexor bilaterally.

 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
CXR ___:
In comparison with study of ___, there is little change.  
Fibrotic or atelectatic streaks are seen in the left mid to 
lower zone and there is scoliosis of the thoracic spine convex 
to the right.  However, no evidence of acute pneumonia or 
vascular congestion. 

Jugular vein ultrasounds ___:

 Grayscale and color Doppler examination of the bilateral 
jugular 
Preliminary Reportveins reveals normal compressibility, 
waveform, and color flow. 
 

 
Brief Hospital Course:
This is a ___ year old right handed woman with a long history of 
smoking and recent addition of estrogen vaginal ring who 
presents with one week of right occipital headache. Found to 
have a right transverse venous thrombosis on MRV at ___.  
MRI features suggest that this thrombosis ight be several days 
old (signal is bright on T1-weighted images). US of her jugular 
vein does not show any clot in this vein. Thus, the thrombosis 
was restricted to the transverse sinus.

NEURO: The patient was admitted to the stroke service. He 
neurologic exam remained fully intact. She was started on a 
heparin drip to prevent extension of the thrombosis. This was 
later transitioned to coumadin with lovenox bridge in 
anticipation of discharge. The patient had a chest xray to 
screen for lung cancer given her long smoking history and lung 
cancer could be another cause of increased coagulability. This 
CXR showed stable changes consistent with known COPD. She was 
also tested for other indicators of hypercoagulability including 
Anticardiolipin Antibody (pending) and ___ Microglobulin 
(1.4). DDimer was elevated at 1039 but this is expected in the 
setting of a clot. While the patient will have the remaining 
hypercoagulable workup as an outpatient, the cause of her clot 
is likely the combination of smoking and estrogen 
supplementation.

The patient's headache persisted while admitted. Tramadol and 
oxycodone were not helpful. The patient was started on 
gabapentin and oral morphine for breahthrough pain which worked 
better. Pain level was ___ on the morning of discharge.

ID: The patient had a low grade temp to 100.3 max while 
admitted. She had a clean dipstick urinalysis and no 
leukocytosis. CXR was also not suggestive of infection. Her low 
grade temperature is likely due to the inflammatory reaction 
from the clot.

HEME: The patient reported "black, tarry" stool on the day of 
discharge. Rectal exam revealed no masses, and dark, guaiac 
negative stool.
 
PSYCH: The patient has a history of anxiety. She was continued 
on all of her usual medications. She was very anxious during 
admission which likely contributed to her headache.

Transitions of Care Issure: Complete hypercoagulable work up as 
below. Follow up MRV in ___ months to determine if there is any 
recanalization and to determine if she needs continued Coumadin. 
Follow up with Neurology as below. Stop lovenox and continue 
with Coumadin once INR is between ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clonazepam 1 mg PO BID:PRN anxiety 
1 tab as needed in the AM and 2 as needed in the ___ 
2. traZODONE 50 mg PO HS:PRN insomnia 
___ tabs 
3. Fluoxetine 20 mg PO DAILY 
4. estradiol acetate *NF* 0.05 mg/24 hr Vaginal weekly 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. BuPROPion (Sustained Release) 200 mg PO QAM 

 
Discharge Medications:
1. Clonazepam 1 mg PO BID:PRN anxiety 
1 tab as needed in the AM and 2 as needed in the ___ 
2. Fluoxetine 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. traZODONE 50 mg PO HS:PRN insomnia 
___ tabs 
5. Vitamin D 1000 UNIT PO DAILY 
6. Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Senna 1 TAB PO BID 
8. Polyethylene Glycol 17 g PO DAILY 
9. BuPROPion (Sustained Release) 200 mg PO QAM 
10. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
11. Enoxaparin Sodium 80 mg SC BID 
RX *enoxaparin 80 mg/0.8 mL one injection sub cutaneously twice 
a day Disp #*10 Syringe Refills:*0
12. Morphine Sulfate ___ ___ mg PO Q6H:PRN Breakthrough pain 
RX *morphine 15 mg ___ tablet(s) by mouth Q6h PRN Disp #*35 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right transverse sinus venous thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
No neurologic deficits on discharge.

 
Discharge Instructions:
You were admitted to the hospital for a transverse venous sinus 
thrombosis on the right side. This was causing your headache. 
You were placed on IV heparin to protect you from potential 
complications from this clot. You will continue on a blood 
thinner called coumadin at home for at least 6 months. Coumadin 
takes up to a week to start working so in the meantime you will 
be on Lovenox shots until your INR reaches ___. Your PCP has 
agreed to follow your INR at regular blood draws. It is 
important that you protect yourself from cuts or falls while you 
are on this medication as it makes you prone to bleed. 

You should have tests for genetic hypercoagulable conditions as 
an outpatient. This can be arranged with your PCP. You should 
also avoid all natural or synthetic estrogen supplements. Most 
importantly you should immediately stop smoking. Failure to do 
so puts your health and life at serious risk.
 
Followup Instructions:
___